datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10](=[S:11])[H:15])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:15])[H:4].[C:9]([C:10]=[S:11])([H:12])([H:13])[H:14],113.596
[C:0](=[C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([C:10]([C:11]([H:20])([H:21])[H:22])([O:12][O:13])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]=[O:3])[H:6])([H:4])[H:5].[H:7][O:13][O:12][C:10]([C:9]([C:8]([H:14])([H:15])[H:16])([H:17])[H:18])([C:11]([H:20])([H:21])[H:22])[H:19],56.9024
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:7])[H:8]>>[C:0](=[C:1]([C:3]([H:12])([H:13])[H:14])[C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:7])[H:8].[C:2]([H:9])([H:10])[H:11],118.4072
[C:0](=[C:1]([N:2]([H:6])[H:7])[H:5])([H:3])[H:4].[H:8]>>[C:0]([C:1]([N:2]([H:6])[H:7])([H:5])[H:8])([H:3])[H:4],15.602136
[C:0]([C:1]1([C:2]([H:9])([H:10])[H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]1[H:15])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]2([C:2]([H:9])([H:10])[H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])[C:6]12[H:15],11.7152
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15],120.633
[C:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([C:5](=[O:6])[H:14])[c:7]([H:15])[c:8]1[H:16])([H:9])([H:10])[H:11].[C:17]([H:18])([H:19])[H:20]>>[C:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([C:5](=[O:6])[H:14])[c:7]([H:15])[c:8]1[H:16])([H:10])[H:11].[H:9][C:17]([H:18])([H:19])[H:20],93.119104
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17]>>[C:0]([C:1]([C:2]([C:3]([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11][O:17],32.8444
[C:0]([O:1][O:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[O:10][H:11]>>[C:0]([H:4])([H:5])[H:6].[O:1]([O:2][C:3]([H:7])([H:8])[H:9])[O:10][H:11],202.083
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17](=[C:18]([C:19]([C:20](=[C:21]([H:27])[H:28])[H:26])[H:25])[H:24])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[C:6]([H:15])[H:16])[H:14])[C:19]([C:18](=[C:17]([H:22])[H:23])[H:24])([C:20](=[C:21]([H:27])[H:28])[H:26])[H:25])[H:10])[H:9])([H:7])[H:8],66.3164
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15]>>[C:0](=[C:1]([C:2](=[C:3][C:4]([H:8])([H:9])[H:10])[C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15])[H:7])([H:5])[H:6],64.2244
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:6])([H:4])[H:5].[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])[H:5].[H:6][C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17],-0.54392
[C:1]([c:2]1[c:4]([H:5])[c:6]([H:7])[c:8]([H:9])[c:10]([H:11])[c:12]1[H:14])([H:15])([H:16])[H:17].[H:18]>>[C:1]([C:2]1=[C:4]([H:5])[C:6]([H:7])([H:18])[C:8]([H:9])=[C:10]([H:11])[C:12]1[H:14])([H:15])([H:16])[H:17],22.7647
[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:4])[H:3]>>[C:0](=[C:1]([C:2]([H:6])[H:7])[H:4])([H:3])[H:5],157.737
[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19].[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:9])[H:10])[H:8]>>[H:9][C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19].[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])[H:8],13.8072
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12](=[C:13]([C:14]([H:20])([H:21])[H:22])[H:19])[H:18])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[C:12]([C:11]([H:15])([H:16])[H:17])([C:13]([C:14]([H:20])([H:21])[H:22])[H:19])[H:18])[H:6])([H:4])[H:5],53.7644
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23](=[C:24]([C:25]([C:26]([H:31])([H:32])[H:33])[C:27]([H:34])([H:35])[H:36])[H:30])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:14])[C:25]([C:24](=[C:23]([H:28])[H:29])[H:30])([C:26]([H:31])([H:32])[H:33])[C:27]([H:34])([H:35])[H:36])[H:13])([H:11])[H:12],44.4759
